US06921759B2
A mixture of methyl 5-bromo-8-hydroxy-[1,6]-naphthyridine-7-carboxylate (7.73 g, 27.4 mmol), 4-methoxybenzyl chloride (5.15 g, 32.9 mmol), and Cs2CO3 (10.7 g, 32.9 mmol) in DMF (150 mL) was stirred in an oil bath at 50° C. overnight. Additional quantity of 4-methoxybenzyl chloride (0.6 g), and Cs2CO3 (1 g) was added, and the mixture heated at the same temperature for 8 hour. The resulting mixture was filtered and concentrated under vacuum. The residue was partitioned between dichloromethane and brine. The organic extract was dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was dissolved in boiling ethyl acetate (150 mL), hexane was added until solution turn cloudy. The resultant slurry was stirred at room temperature overnight. The solid precipitated was collected by filtration to provide methyl 5-bromo-8-[(4-methoxybenzyl)oxy]-[1,6]-naphthyridine-7-carboxylate.

reactant | methyl 5-bromo-8-hydroxy-[1,6]-naphthyridine-7-carboxylate | 27.4 mmol, 7.73 g | BrC1=C2C=CC=NC2=C(C(=N1)C(=O)OC)O | C10H7BrN2O3
reactant | 4-methoxybenzyl chloride | 32.9 mmol, 5.15 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | Cs2CO3 | 32.9 mmol, 10.7 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-methoxybenzyl chloride | 0.6 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | Cs2CO3 | 1 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | methyl 5-bromo-8-[(4-methoxybenzyl)oxy]-[1,6]-naphthyridine-7-carboxylate | BrC1=C2C=CC=NC2=C(C(=N1)C(=O)OC)OCC1=CC=C(C=C1)OC | C18H15BrN2O4
